US08048902B2
2′-methylacetophenone and (S)-(−)-2-methyl-CBS-oxazaborolidine were reacted as described in Example 35, Step 1 to provide (R)-1-o-Tolyl-ethanol.

reactant | 2′-methylacetophenone | CC1=C(C=CC=C1)C(C)=O | C9H10O
reactant | (S)-(−)-2-methyl-CBS-oxazaborolidine | B1(N2CCC[C@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
product | (R)-1-o-Tolyl-ethanol | C1(=C(C=CC=C1)[C@@H](C)O)C | C9H12O
